US06716851B2
4-(Indol-4-ylamino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 4-aminoindole (38 mg, 0.290 mmol) similar to Example 117 and isolated as a tan solid (6 mg, 9%). 1H NMR (CDCl3): 9.75-9.74 (m, 1H), 8.77-8.73 (m, 1H), 8.69 (dd, J=1.8, 5.1 Hz, 1H), 8.57 (s, 1H), 8.08 (s, 1H), 7.44-7.38 (m, 2H), 7.31-7.23 (m, 3H), 6.85 (s, 1H), 6.50-6.48 (m, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 4-aminoindole | 0.290 mmol, 38 mg | NC1=C2C=CNC2=CC=C1 | C8H8N2
product | 4-(Indol-4-ylamino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | N1C=CC2=C(C=CC=C12)NC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C18H12F3N5
